datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](#[C:18][C:19]([H:21])[H:22])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:19]([C:18]#[C:17][H:20])([H:21])[H:22])[H:7],35.1874
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])([H:13])[H:14].[O:37][O:38]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:13])[H:14].[H:12][O:37][O:38],0.0
[C:0]([C:1]([S:2][H:8])[C:3](=[S:4])[H:9])([H:5])([H:6])[H:7].[c:10]1([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21]>>[C:0]([C:1]([S:2][H:8])([C:3](=[S:4])[H:9])[H:16])([H:5])([H:6])[H:7].[c:10]1[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21],190.832
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[Cl:9]>>[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][Cl:9],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](#[C:17][C:18]([H:20])[H:21])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:18]([C:17]#[C:16][H:19])([H:20])[H:21])[H:8],24.2254
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[C:13]([c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:24])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:20])([H:21])[H:22])([C:13]([c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:24])[H:23])[H:6])([H:4])[H:5],49.413
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6](=[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:19])[H:18])([H:16])[H:17])[H:15])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]1([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])=[C:7]([H:19])[C:8]1([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:11],77.8642
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[O:17][H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][O:17][H:18],3.1095488
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[S:24][H:31])([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:22]([C:21]([H:25])([H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[S:24][H:31],6.6944
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](#[C:13][C:14]([C:15]([H:18])([H:19])[H:20])[C:16]([H:21])([H:22])[H:23])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:14]([C:13]#[C:12][H:17])([C:15]([H:18])([H:19])[H:20])[C:16]([H:21])([H:22])[H:23])[H:7])[H:6],26.6521
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:12])[H:14])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],123.428
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][H:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[H:5][O:17][O:18][H:19],71.79744
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([S:10][H:17])([C:11](=[S:12])[H:18])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:16])([H:3])[H:4].[C:8]([C:9]([S:10][H:17])[C:11](=[S:12])[H:18])([H:13])([H:14])[H:15],-15.8992
[C:0](=[C:1]([C:2]([O:3][C:4]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[H:7])([H:5])[H:6].[O:3]([C:4]([H:10])([H:11])[H:12])[H:13],62.1119
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17],35.8569
